US07795254B2
To a solution of 5-(hydroxymethyl)isoxazole-3-carboxylate (4.0 g, 23 mmol) and TBSCL (3.7 g, 25 mmol) in DMF is added Et3N (3.4 mL, 24 mmol) dropwise over 20 minutes. The reaction is allowed to stir for 30 minutes after which it is diluted with EtOAc (300 mL), washed with 1 M HCl (3×100 mL), 5% CuSO4 (2×50 mL) and concentrated in vacuo to yield ethyl-5-({[tert-butyl(dimethylsilyl)]oxy}methyl)isoxazole-3-carboxylate as an oily material.

reactant | 5-(hydroxymethyl)isoxazole-3-carboxylate | 23 mmol, 4.0 g | OCC1=CC(=NO1)C(=O)[O-]
reactant | TBSCL | 25 mmol, 3.7 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | Et3N | 24 mmol, 3.4 mL | CCN(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | ethyl-5-({[tert-butyl(dimethylsilyl)]oxy}methyl)isoxazole-3-carboxylate | C(C)OC(=O)C1=NOC(=C1)CO[Si](C)(C)C(C)(C)C | C13H23NO4Si
